US07683075B2
2-(2-Fluoro-6-iodo-phenyl)-[1,3]dioxane
2-Fluoro-6-iodo-benzaldehyde (3.0 g, 12 mmol), 1,3-propanediol (1.3 ml, 18 mmol), and para-toluenesulfonic acid (342 mg, 1.8 mmol) is heated at reflux in toluene (60 ml) using a Dean-Stark apparatus for 2 hours. The organic layer is washed with brine and dried over MgSO4 and evaporated to afford the desired compound (3.65 g).

reactant | 2-Fluoro-6-iodo-benzaldehyde | 12 mmol, 3.0 g | FC1=C(C=O)C(=CC=C1)I | C7H4FIO
reactant | 1,3-propanediol | 18 mmol, 1.3 ml | C(CCO)O | C3H8O2
reactant | para-toluenesulfonic acid | 1.8 mmol, 342 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Fluoro-6-iodo-phenyl)-[1,3]dioxane | 3.65 g | FC1=C(C(=CC=C1)I)C1OCCCO1 | C10H10FIO2
